US05958942
4,5-Dihydro-4-[3-(1-tert-butoxycarbonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one
A solution prepared by dissolving 3.59 g (10.66 mM) of 3-carbethoxy-5-chloromethylimidazo[1,2-a]pyridine sulfate, 3.10 g (12.79 mM) of 3-(1-tert-butoxycarbonylpiperidin-4-yl)-1-propylamine, and 5.94 ml (42.64 mM) of triethylamine in 30 ml of ethanol was refluxed for 5 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 100 ml of chloroform. The organic layer was washed with 100 ml of saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol=50:1) to provide 2.55 g (yield 62.1%) of the title compound as yellow oil.

reactant | 3-carbethoxy-5-chloromethylimidazo[1,2-a]pyridine sulfate | 10.66 mM, 3.59 g | S(=O)(=O)(O)O.C(=O)(OCC)C1=CN=C2N1C(=CC=C2)CCl
reactant | 3-(1-tert-butoxycarbonylpiperidin-4-yl)-1-propylamine | 12.79 mM, 3.10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
reactant | triethylamine | 42.64 mM, 5.94 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4,5-Dihydro-4-[3-(1-tert-butoxycarbonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 2.55 g, yield 62.1% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN1C(C2=CN=C3C=CC=C(C1)N32)=O | C22H30N4O3
